* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP2120-3.3.asc
* Generated by LTspice 24.1.9 for Windows.
L1 N002 OUT 2.2µ
C1 OUT 0 20µ
R1 OUT N001 100K
V1 IN 0 5
Rload OUT 0 3.3
X§U1 IN IN N002 0 0 OUT IN N001 IN IN ADP2120-3.3
.tran 1m
.lib ADP2120-3.3.sub
.backanno
.end
